*REF35 (PSpice format)
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer                                    
*****************************************************************************	
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: REF35
* Precision Voltage Reference
* Date: 08/07/2023
* Model Type: TINA
* Simulator: TINA-TI
* Simulator Version: 9.3.200.277 SF-TI
* Datasheet: SNAS809A – DECEMBER 2021 – REVISED AUGUST 2022
*
*****************************************************************************
* version 1.1:
*
*****************************************************************************	
* REF35 SUBCIRCUIT
* Ultra-low quiescent current: – 650 nA (typical), Precision Voltage Reference
* Model features include Output voltage, Line Regulation,
* Load Regulation, PSRR vs Frequency,
* Quiescent Current vs Temperature, 
* Line Transient response, Load Transient response, 
* Output Short Circuit Current, Startup Turn-on time, 
* Output voltage noise 0.1 to 100kHz, 
* Dropout Voltage vs Current and Temperature and 
* Output Voltage vs Temperature.
* Model temperature range is -40 to +125 deg C.
* NR pin to reduce noise
* EN pin to reduce shutdown current consumption
* Output voltage options: 
* PRODUCT: VREF:
* REF35102 1.024 V
* REF35120 1.2 V
* REF35125 1.25 V
* REF35160 1.6 V
* REF35180 1.8 V
* REF35205 2.048 V
* REF35250 2.5 V
* REF35300 3.0 V
* REF35330 3.3 V
* REF35409 4.096 V
* REF35500 5.0 V

** source REF35
.PARAM pi = 3.14159265358979
.SUBCKT REF35102 GND EN VIN NR VREF
.PARAM VrefSel= {1.024}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35120 GND EN VIN NR VREF
.PARAM VrefSel= {1.2}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35125 GND EN VIN NR VREF
.PARAM VrefSel= {1.25}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35160 GND EN VIN NR VREF
.PARAM VrefSel= {1.6}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35180 GND EN VIN NR VREF
.PARAM VrefSel= {1.8}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35205 GND EN VIN NR VREF
.PARAM VrefSel= {2.048}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF3525 GND EN VIN NR VREF
.PARAM VrefSel= {2.5}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35250 GND EN VIN NR VREF
.PARAM VrefSel= {2.5}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35300 GND EN VIN NR VREF
.PARAM VrefSel= {3.0}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35330 GND EN VIN NR VREF
.PARAM VrefSel= {3.3}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35409 GND EN VIN NR VREF
.PARAM VrefSel= {4.096}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35500 GND EN VIN NR VREF
.PARAM VrefSel= {5.0}
XU1         EN VIN NR VREF VREF GND REF35XX_0
+ PARAMS: Vout_={VrefSel}
.ENDS

.SUBCKT REF35XX_0 EN VIN NR OUTS OUTF GND
+ PARAMS: Vout_=1.25
.PARAM Vref= {VOUTi}
.PARAM VOUTi= {Vout_}
.PARAM Ren= {1G}
.PARAM Ien= {50n}
.PARAM Bout= {1/Aout}
.PARAM Aout= {VOUTi/Vref}
.PARAM Venh0= {1.6}
.PARAM Venl0= {0.5}
.PARAM IenH= {Ien}
.PARAM IenL= {Ien}
.PARAM RthH= {Vinref/Max(IQmin - IenH, 1n)}
.PARAM VenH= {0.7*Vinref}
.PARAM VenL= {0.3*Vinref}
.PARAM RthL= {Venth*RthH/(Vinref - Venth)}
.PARAM IQmin= {10n}
.PARAM Vinref= {3}
.PARAM Venth= {(VenH+VenL)/2}
.PARAM Vthres= {0}
XRef        POR GND VIN NR Veps BANDGAP_0
+ PARAMS: VREF={VREF} ROUT=30K VENTHR=0.5 EVOUT=-10M TVOUT=5.0 NLF={50*BOUT*1}
+ FLW=100M NVR={50*BOUT*1} FH=30K VINL=1 DVODVIN={40*1.0}
+ VREFPSR={VOUTI+0.5} VREF0={1.25*BOUT} FZPSR=50K FPPSR=10MEG
+ FPPSR2=10MEG FZPSR1=50K FPPSR1=100MEG
RthH        VIN 15 {RthH} 
RthL        15 GND {RthL} 
XD5         EN VIN D_DINEN_0
+ PARAMS: IEN={IenL}
XOutput     Neg Veps VIN POR GND Vt0pmx Vt0mx NR OUTF SS Vt0 Vt0p Bias Output_0
+ PARAMS: KVPS0=4f
XHYSTCOMP1  EN 15 PORI GND HYSTCOMPG_0
+ PARAMS: VTHRES={Vthres} VHYST={(VENH-VENL)} VOUTH=5 VOUTL=0 ROUT=100 TDEL=1N
XD11        GND EN D_DINEN_0
+ PARAMS: IEN={IenH}
XD4         OUTF VIN D_DIN_0
XD3         GND OUTF D_DIN_1
Ren         VIN EN {Ren} 
XD2         OUTF VIN D_DIN_0
XD1         GND OUTF D_DIN_1
XU5         GND OUTF Neg GAINSET_0
+ PARAMS: GERR=0 GERR_TC=0 FH=1000K G={AOUT} RG=1T
XBiasOut    VIN GND Bias Vt0pmx Vt0mx PORI SS POR Vt0p Vt0 Bias_0
.ENDS

.SUBCKT Output_0 Neg Veps VDD2 POR GND2 Vt0pmx Vt0mx Plus OUT SS Vt0 Vt0p Bias
+ PARAMS: KVPS0=4f
.PARAM Kvps= {0}
.PARAM Gm1= {31.41592654n}
.PARAM Gm2= {-145.17978642n}
.PARAM Gm3= {3.86283752m}
.PARAM M= {1.92049974k}
.PARAM Gm1l= {865.3684767n}
.PARAM Gm2lh= {50.6552006u}
.PARAM Gm2ll= {-50.6552006u}
.PARAM Cgs= {12.3142374p}
.PARAM Cgd= {3.07855935p}
.PARAM Cds= {100p}
.PARAM Gm21= {-3.86283752m}
.PARAM Gm22= {3.86283752m}
.PARAM Mvgs0= {1}
.PARAM Gm21ll= {0}
.PARAM Gm21lh= {3.07855935n}
.PARAM Gm22ll= {0}
.PARAM Gm22lh= {6.1571187n}
.PARAM Iss= {34.125n}
.PARAM Mvss= {200n}
.PARAM Cvss= {1m}
.PARAM Miscb= {72.38636364n}
.PARAM Msc= {M*Miscb*1.0}
.PARAM Gm12= {31.41592654n}
.PARAM TCro= {2.87356322m}
.PARAM RS= {149.99250036m}
.PARAM Rsc= {200k}
.PARAM Mff= {-5m}
.PARAM Cpsrr= {1000f}
.PARAM Rm2= {6.88801124MEG}
.PARAM AF= {2.005}
.PARAM KF= {1e-18*0}
.PARAM Lambda= {1m}
.PARAM Gm2f= {2*145.17978642n}
*.PARAM Rm1= {2.33118151G}
.PARAM Rm1= {6.217627G}
.PARAM ML= {960.24987174}
.PARAM Mscl= {M/ML*Msc}
.PARAM RS2= {RS/Miscb}
.PARAM Rb= {RS*M/Mb}
.PARAM Mb= {134.43498204}
.PARAM Idb= {48.13017905n}
.PARAM Rdl= {10}
.PARAM Rpm= {50MEG}
.PARAM RDS= {100MEG}
.PARAM KL= {500m}
.PARAM Icompmx= {500n}
.PARAM KLmx= {636.36363636m}
.PARAM Gm2xsh= {0.33f}
.PARAM G1cp= {943.91098737u}
.PARAM VOHi= {753.45565742m}
.PARAM VOLo= {753.45565742m}
.PARAM VOHisu= {753.45565742m}
.PARAM VOLosu= {753.45565742m}
.PARAM Rfc= {258.86732556}
.PARAM Micmp= {55.261066u}
.PARAM Vgsmax= {771.4565552m}
.PARAM N1= {200m}
.PARAM Msu2= {12}
.PARAM Gm0= {-10u}
.PARAM Rm0= {Abs(1/Gm0)}
.PARAM Micm= {1.36771138m}
.PARAM Igm2fmax= {50p}
.PARAM Nil= {250m}
VOLo        GND2 VLo0 {VOLo}
VOHi        VHi0 GND2 {VOHi}
Vsh1        0 40 700M
Vsh2        41 0 700M
Vfflim4     0 43 1
Vfflim3     44 0 1
Vfflim2     0 46 1
Vfflim1     31 0 1
VIcmpn      49 VD1 ; Current Arrow
VIcmpp      VD1 50 ; Current Arrow
VCIb1       62 Vib ; Current Arrow
VIscH       63 64 ; Current Arrow
VIscL       VDD2 65 ; Current Arrow
VlimLo2     GND2 VLo2 7.94647M
VlimHi2     VHi2 GND2 7.94647M
VlimLo      GND2 VLo 120M
VlimHi      VHi GND2 120M
Rvsupd      22 0 R_RES_1 200 
XDvsup      23 22 D_LIMN1_0
+ PARAMS: N={N1} RS={0}
CDVinDt     250 GND2  1U
RDVinDt     VM 240 R_RES_1 1    
VDVinDt     240 250 ; Current Arrow

GVCCS4      0 23 VALUE = {IF (TIME < 1u, 1, LIMIT((-10K*(I(VDVINDT))+1),1,5))}
C8          22 0  1U
R26         23 0 R_RES_1 1 
R23         Vsub2 VLo0 100 
XD25        VGN 25 D_LIMN1_0
+ PARAMS: N={Nil} RS={RDL}
XD24        25 VGN D_LIMN1_0
+ PARAMS: N={Nil} RS={RDL}
XD23        VGP2 27 D_LIMN1_0
+ PARAMS: N={Nil} RS={RDL}
XD20        27 VGP2 D_LIMN1_0
+ PARAMS: N={Nil} RS={RDL}
XVn16       28 29 VNOISE_0
+ PARAMS: NLF=29 FLW=100m NVR=29
R22         Vsub 31 100 
XD19        VLo2 29 D_LIMN1_0
+ PARAMS: N={N1} RS={RDL}
XD16        29 VHi2 D_LIMN1_0
+ PARAMS: N={N1} RS={RDL}
XD10        VLo2 34 D_LIMN1_0
+ PARAMS: N={N1} RS={RDL}
XD8         34 VHi2 D_LIMN1_0
+ PARAMS: N={N1} RS={RDL}
XD5         Vsub2 35 D_LIMN1_0
+ PARAMS: N={N1} RS={0}
XD2         35 VHi0 D_LIMN1_0
+ PARAMS: N={N1} RS={RDL}
XD14        VLo 36 D_LIMN1_0
+ PARAMS: N={N1} RS={RDL}
Gm2f        GND2 37 VALUE = {IF (TIME < 1u, GM2F*(V(28,GND2)-V(37,GND2)), IGM2FMAX*TANH(GM2F*(V(28,GND2)-V(37,GND2))/IGM2FMAX))}
XD13        36 VHi D_LIMN1_0
+ PARAMS: N={N1} RS={RDL}
R34         OUT VGN R_RES_1 200G 
R33         VGP2 OUT R_RES_1 200G 
C7          34 GND2  10P
RC7_RPAR    34 GND2 1T
R24         34 GND2 R_RES_1 {Rm0} 
GVCCS3      GND2 34 VALUE = {V(POR,GND2)*GM0*(V(Plus,Neg))}
C6          VGN 25  100F
RC6_RPAR    VGN 25 1T
C4          VGP2 27  100F
RC4_RPAR    VGP2 27 1T
R19         25 VGN R_RES_1 1G 
R25         27 VGP2 R_RES_1 1G 
*GVCCS2      27 VGP2 VALUE = {IF (TIME < 1u, 1m*V(27,VGP2), LIMIT(V(22,0),1,3)*GM22LH*TANH(V(27,VGP2)*GM22/GM22LH)-GM2XSH*GM22LH )}
GVCCS2      27 VGP2 VALUE = {IF (TIME < 1u, GM22*V(27,VGP2), LIMIT(V(22,0),1,3)*GM22LH*TANH(V(27,VGP2)*GM22/GM22LH)) - GM2XSH*GM22LH }
R5          38 VM R_RES_1 {1/Gm22} 
GVCCS1      0 39 VALUE = {IF (TIME < 1n, 1m, 1M*V(POR,GND2)*(1+(V(47,0)+V(45,0))*MSU2))}
C1          39 0  1N
R21         39 0 R_RES_1 1K 
R20         0 43 1K 
R18         44 0 1K 
XD9         43 45 D_LIM01_0
XD3         45 44 D_LIM01_0
GVCCS6      0 45 VALUE = {IF (TIME < 1u, 0, MICM*(-0*I(VICMPP)+I(VICMPN)))}
C5          45 0  1p
R6          45 0 R_RES_1 100K 
*GVCCS5      25 VGN VALUE = {IF (TIME < 1u, 1m*V(25,VGN), LIMIT(V(22,0),1,3)*GM21LH*TANH(V(25,VGN)*GM22/GM21LH)+GM2XSH*GM21LH )}
GVCCS5      25 VGN VALUE = {IF (TIME < 1u, GM22*V(25,VGN), LIMIT(V(22,0),1,3)*GM21LH*TANH(V(25,VGN)*GM22/GM21LH)) + GM2XSH*GM21LH }
R31         VDD2 VGP2 R_RES_1 1T 
R32         VGN GND2 R_RES_1 1T 
R30         0 46 1K 
R29         31 0 1K 
XD22        46 47 D_LIM01_0
XD21        47 Vsub D_LIM01_1
GVCCS7      0 47 VALUE = {IF (TIME < 1u, 0, MICM*(I(VICMPP)-0*I(VICMPN)))}
C2          47 0  1p
R28         47 0 R_RES_1 100K 
XD_D6       40 49 D_D_0
XD_D5       50 41 D_D_0
RScd        VD1 0 R_RES_1 200 
Gcmp2       0 VD1 VALUE = {-(V(51,0))}
Ccmp        51 0  1P
RCcmp_RPAR  51 0 1T
Rcmp        51 0 1K 
G1cp        0 51 VALUE = {IF (TIME < 1u, 0, G1CP*V(35,GND2))}
GIb1        Vib 53 Bias GND2  {Idb}
XT2         54 VGP2 55 VDD2 Q_PMOS_OUT_L1_0
+ PARAMS: M={M} W=20U L=1U CGS={CGS} CGD={CGD} CDS={CDS} LAMBDA={LAMBDA}
+ RDS={RDS} AF={AF} KF={KF}
XT1         56 VGN 57 GND2 Q_NMOS_OUT_L1_0
+ PARAMS: M={KL*M} W=20U L=1U CGS={KL*CGS} CGD={KL*CGD} CDS={KL*CDS}
+ LAMBDA={LAMBDA} RDS={RDS} AF={AF} KF={KF}
C3          35 GND2  200P
RC3_RPAR    35 GND2 1T
R17         VM GND2 1K 
R16         GND2 VLo2 1K 
R15         VHi2 GND2 1K 
R14         GND2 VLo 1K 
R13         GND2 VLo0 1K 
R12         VHi GND2 1K 
R11         VHi0 GND2 1K 
XD6         Vt0pmx 27 D_LIM01_2
+ PARAMS: RS={0}
GVMPmx      Vt0pmx VDD2 VALUE = {(V(POR,GND2)*V(VDD2,63)-V(VM,38))/RDL}
XD4         25 Vt0mx D_LIM01_2
+ PARAMS: RS={0}
R10         Vt0mx GND2 {Rdl} 
GVMNmx      GND2 Vt0mx VALUE = {(V(POR,GND2)*V(58,GND2)-V(VM,38))/RDL}
Csd         POR GND2  1.5N
Rsd         POR GND2 R_RES_1 10K 
GPORO       GND2 POR VALUE = {LIMIT(150U*I(VCIB1)/IDB,0,100U)}
Rb1         60 GND2 R_RES_1 {Rb/KL} 
Rb2         VDD2 61 R_RES_1 {Rb} 
EVMN1       Vt0 GND2 VALUE = {V(POR,GND2)*V(53,GND2)}
EVMP1       VDD2 Vt0p VALUE = {V(POR,GND2)*V(VDD2,62)}
R4          Vt0 GND2 1K 
R1          VDD2 Vt0p 1K 
XT3         53 53 60 GND2 Q_NMOS_L1_0
+ PARAMS: M={KL*MB} W=20U L=1U LAMBDA={LAMBDA}
XM1         62 62 61 VDD2 Q_PMOS_L1_0
+ PARAMS: M={Mb} W=20U L=1U LAMBDA={LAMBDA}
R3          53 GND2 R_RES_1 {Rpm} 
R2          VDD2 62 R_RES_1 {Rpm} 
Ro2         OUT 54 R_RES_2 4.662102 
Ro1         56 OUT R_RES_2 4.662102 
Rm2f0       37 GND2 R_RES_1 1T 
Rm0         35 GND2 R_RES_1 {Rm0} 
Gm0         GND2 35 VALUE = {V(POR,GND2)*GM0*(V(Plus,Neg))}
Rsc2        VDD2 66 {RS2} 
Rsc1        59 GND2 {RS2/(KL/KLmx)} 
Rs1         GND2 57 R_RES_1 149.9925M 
Rs2         VDD2 55 R_RES_1 149.9925M 
XD12        VLo 67 D_LIM01_0
XD11        67 VHi D_LIM01_0
XD1         VM 38 D_LIM01_2
+ PARAMS: RS={RDL}
Co2         29 GND2  100F
RCo2_RPAR   29 GND2 1T
Gm12        GND2 36 VALUE = {-GM12*V(67,GND2)}
Rm12        67 GND2 1M 
Gm11        67 GND2 VALUE = {V(POR,GND2)*V(39,0)*GM1*V(35,GND2)}
Cm12        67 GND2  200P
RCm12_RPAR  67 GND2 1T
Rsc         SS GND2 {Rsc} 
GVMN2       65 58 VALUE = {V(POR,GND2)*((MVSS*LIMIT(V(SS,GND2),0,2.0)/ISS+CVSS)*MISCB+VGSMAX/RPM)}
XD_ss2      GCLn SS D_D_0_0
XD_ss1      GCLn VDD2 D_D_1_0
Gss         VDD2 GCLn VALUE = {V(POR,GND2)*ISS}
GVMP2       64 GND2 VALUE = {V(POR,GND2)*((MVSS*LIMIT(V(SS,GND2),0,2.0)/ISS+CVSS)*MISCB+VGSMAX/RPM)}
R9          VDD2 Vt0pmx {Rdl} 
XM3         58 58 59 GND2 Q_NMOS_L1_1
+ PARAMS: M={KL/KLMX*MSC} W=20U L=1U LAMBDA={LAMBDA}
XM2         63 63 66 VDD2 Q_PMOS_L1_0
+ PARAMS: M={MSC} W=20U L=1U LAMBDA={LAMBDA}
R8          58 GND2 {Rpm} 
R7          VDD2 63 {Rpm} 
Gm2         GND2 29 VALUE = {V(POR,GND2)*(GM2*(V(36,GND2)))}
Rm20        29 GND2 R_RES_1 {Rm2} 
EVCVS1      VM GND2 VDD2 GND2  500M
XD7         38 VM D_LIM1_0
GID         38 GND2 VALUE = {V(POR,GND2)*ABS(GM22)*(VGSMAX-0.7)*2}
Cm1         OUT Vcmp  100P
Cm2         37 Vcmp  5.321454N
Rfc         36 Vcmp {Rfc} 
Rm1         36 GND2 R_RES_1 {Rm1} 
Gm21        Vt0 25 VALUE = {V(POR,GND2)*(GM21*(V(28,GND2)+MFF*V(34,GND2)))}
Co21        Plus Neg  1F
RCo21_RPAR  Plus Neg 1T
Gm1         GND2 36 VALUE = {V(POR,GND2)*GM1*(V(35,GND2)*V(39,0))}
Co1         36 GND2  100F
Gm22        27 Vt0p VALUE = {V(POR,GND2)*(GM22*(V(28,GND2)+MFF*V(34,GND2)))}
Ro23        GND2 Plus R_RES_1 1T 
Ro22        Neg GND2 R_RES_1 1T 
Ro21        Neg Plus R_RES_1 1T 
Rm22        27 Vt0p R_RES_1 258.877055 
Rm21        25 Vt0 R_RES_1 258.877055 
Co23        GND2 Plus  1F
RCo23_RPAR  GND2 Plus 1T
Co22        Neg GND2  1F
RCo22_RPAR  Neg GND2 1T

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_2 RES ( TC1={TCro} TCE=0)

.ENDS

.SUBCKT Bias_0 VDD2 GND2 Bias Vt0pmx Vt0mx PORI SS POROi Vt0p Vt0
.PARAM ISS= {12u}
.PARAM Mvss= {200n}
.PARAM Cvss= {1m}
.PARAM Miscb= {1m}
.PARAM Msc= {Mout*Miscb*0.96}
.PARAM Gm2l= {7.539822m}
.PARAM Mout= {3.03156924k}
.PARAM TC1= {1.863751m}
.PARAM TC2= {5.019897u}
.PARAM Mqc= {19.88668}
.PARAM y1= {944.186m}
.PARAM m1= {18.6047m}
.PARAM Mb= {75.7892}
.PARAM RS= {500m}
.PARAM Rb= {RS*Mout/Mb}
.PARAM Lambda= {100u}
XD4         GND2 VDD2 D_DIN_2
+ PARAMS: IS=1N
GIb2        GND2 Bias VALUE = {IF(V(PORI,GND2)>0.9&V(VDD2,GND2)>1.5,(M1*V(VDD2,GND2)+Y1),0)}
Rb3         Bias GND2 R_RES_1 1 

.MODEL R_RES_1 RES ( TC1={TC1} TC2={TC2} TCE=0)

.ENDS

.SUBCKT BANDGAP_0 En Gnd Vin Vref Veps 
+ PARAMS: Evout=5m Tvout=0.5 Vref=1.25 Rout=10 Venthr=0.5 Vref0=1.25 NLF=1 FLW=0.01  NVR=1 Fh=200 Vinl=2 
+ DVoDVin=4 Vrefpsr=3 Fzpsr=20 Fppsr=1k Fzpsr1=10k Fppsr1=1000k Fppsr2=100Meg
* Output voltage accuracy ±0.025 max, 5m typ [%]
* Output voltage temperature coefficient 2 ppm/°C max, 0.5 typ [ppm/°C]
.PARAM R0 = {Rout}
.PARAM DVO_DT = { Tvout*1e-6 }
* Using Tvout parameters 
*.PARAM Vrefo = {Vref*(1 + Evout/100 + 2*DVO_DT)}   
*.PARAM TC1= {DVO_DT/R0/I0}
.PARAM TC1= {DVO_DT}
.PARAM Mdvodt = {1}     ; Tvout is used
* Using EDVO_DT Table 
*.PARAM Vrefo = {Vref}
.PARAM Vrefo = {Vref*(1 + Evout/100)}
*.PARAM TC1= {0}
.PARAM I0 = {Vrefo/R0}
.PARAM Cout={1/(2*Pi*Rout*Fh)}
.PARAM Rpsr= 1k
.PARAM DVO_DVIN = { DVoDVin*1e-6/Vref } 
*.PARAM Cpsr={1/(2*Pi*Rpsr*Fpsr)}
.PARAM Gain={Vref/Vref0}

Xn Vref1 Vref2 VNoise PARAMS: NLF={Gain*NLF} FLW={FLW}  NVR={Gain*NVR}

* Using Evout, Tvout parameters 
G1 Gnd Vref0 Value = {V(EN)*I0} ; Tvout is used
R1 Gnd Vref0 RMOD2 {R0}
CG1 Gnd Vref0 1p
E1 Vref1 Gnd Value = { V(Vref0)*(1 + V(Veps)) }
RE1 Vref1 Gnd 1k 
R2 Vref2 Vref {Rout}
C1 Vref Gnd {Cout}

*G2 0 Vpsr Value = {DVO_DVIN/Rpsr*(V(Vin,Gnd)-Vrefpsr)}
*R3 0 Vpsr {Rpsr}
*C2 Vpsr 0 {Cpsr}

.PARAM fpPSRR1= {Fppsr}
.PARAM fzPSRR1= {Fzpsr}
.PARAM R11ops= {(fpPSRR1/fzPSRR1 - 1)*R1ops}
.PARAM L1ops= {R11ops/(2*pi*fpPSRR1)}
.PARAM R10ps= {1k}
.PARAM C2ps= {1/(2*pi*R10ps*fpPSRR2)}
*.PARAM R11ps= {1m}
.PARAM R1ops= {1}
.PARAM fpPSRR10= {Fppsr1}
.PARAM fzPSRR10= {Fzpsr1}
.PARAM R110ops= {(fpPSRR10/fzPSRR10 - 1)*R10ops}
.PARAM L10ops= {R110ops/(2*pi*fpPSRR10)}
.PARAM R10ops= {1}

.PARAM fpPSRR2= {Fppsr2}
G1ops       0 Vz1 VALUE = {-DVO_DVIN*(V(Vin,Gnd)-Vrefpsr)}
*R11ps       4 0 {R11ps} 
R10ps       Vz100 Veps {R10ps} 
C2ps        Veps 0  {C2ps}
R11ops      5 0 {R11ops} 
L1ops       5 0  {L1ops}
R1ops       Vz1 5 {R1ops} 
G10ops       0 Vz10 VALUE = {V(Vz1)}
R110ops      50 0 {R110ops} 
L10ops       50 0  {L10ops}
R10ops       Vz10 50 {R10ops} 
G100ops       0 Vz100 VALUE = {V(Vz10)}
R1100ops      500 0 {R110ops} 
L100ops       500 0  {L10ops}
R100ops       Vz100 500 {R10ops} 

.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS

.SUBCKT VNoise 1 2
+ PARAMS: 
* nV/RHz AT 1/F FREQ
+ NLF=1
* FREQ FOR 1/F VAL
+ FLW=0.01
* nV/RHz FLATBAND
+ NVR=1
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
R1 5 0 {RNV}
R2 5 0 {RNV}
E1 1 2 Value= {GLF*V(7,8) + 10*V(5)}
RE1 1 2 1k  
.ENDS

.SUBCKT D_DINEN_0 1    2 Params: Ien=3.2u
D1 1 2  Dph
*.MODEL Dph D( IS=12.7389n N=1.0 XTI=0 RS=10 T_ABS=25 )
.MODEL Dph D( IS={Ien} N=1.0 RS=10 T_ABS=27 )
.ENDS

.SUBCKT HYSTCOMPG_0 inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdel=1N
*
.PARAM Delay = {MAX(Tdel,1n)}
.Param Rdel = {IF ( (Delay > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres + 0.5*Vhyst}
.Param VthL={Vthres - 0.5*Vhyst}
.Param Cout={Delay/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.ENDS

.SUBCKT D_DIN_0 1    2
D1 1 2  Dnh
.MODEL Dnh D( IS=12.4889n N=1.0 XTI=0 RS=10 EG=0.94 T_ABS=27 )
.ENDS

.SUBCKT D_DIN_1 1    2
D1 1 2  Dph
.MODEL Dph D( IS=12.7389n N=1.0 XTI=0 RS=10 EG=0.94 T_ABS=27 )
.ENDS

.SUBCKT GAINSET_0 1 2 3 PARAMS: Gerr=0.05 Gerr_Tc=0.5 G = 2 fh=10k RG = 100000k
* Gain error 0.05 ±0.15 % of FSR
* Gain temperature coefficient AVDD=+5V: ±0.5,  AVDD=+2.0V: ±1.5 ppm of  FSR/°C

.PARAM G_err = {(Gerr-0.0015)*0.01}
.PARAM G_Tc = {Gerr_Tc*1e-6}
.PARAM RG_Tc = {1*G_Tc}
.PARAM RG2 = {(1+G_err)*RG*(G-1)/G}
.PARAM RG1 = {(1-G_err)*RG/G}
.PARAM G2 = {1/Max(RG2,100m)}
.PARAM G1 = {1/Max(RG1,100m)}
.PARAM C2 = {G2/(2*pi*fh)}
*R1 1 3 RMOD1 {RG1}
GR1 1 3 Value = {V(1,3)*G1}
*R2 3 2 RMOD2 {RG2}
*C1 1 3 {C2/1}
GR2 3 2 Value = {V(3,2)*G2}
C2 3 2 {C2}
.MODEL RMOD1 RES (TC1={-RG_Tc} TC2=0 TCE=0)
.MODEL RMOD2 RES (TC1={RG_Tc} TC2=0 TCE=0)
.ENDS

.SUBCKT D_LIMN1_0 1 2 Params: N=1 RS=100
D1 1 2  D_LimN1
*.MODEL D_LIM01 D( IS=10F N=0.1 RS=1 XTI=0 AF=0 KF=0 EG=0.111 T_ABS=27)
*.MODEL D_LIM01 D( IS=10F N=0.1 RS=100 XTI=0 AF=0 KF=0 T_ABS=27)
.MODEL D_LIMN1 D( IS=10F N={N} RS={RS} XTI=0 AF=0 KF=0 T_ABS=27)
.ENDS

.SUBCKT VNOISE_0 1 2
+ PARAMS: 
* nV/RHz AT 1/F FREQ
+ NLF=1
* FREQ FOR 1/F VAL
+ FLW=0.01
* nV/RHz FLATBAND
+ NVR=1
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
R1 5 0 {RNV}
R2 5 0 {RNV}
E1 1 2 Value= {GLF*V(7,8) + 10*V(5)}
RE1 1 2 1k  
.ENDS

.SUBCKT D_LIM01_0 1 2
D1 1 2  D_Lim01
*.MODEL D_LIM01 D( IS=10F N=0.1 RS=1 XTI=0 AF=0 KF=0 EG=0.111 T_ABS=27)
.MODEL D_LIM01 D( IS=10F N=0.1 RS=100 XTI=0 AF=0 KF=0 T_ABS=27)
.ENDS

.SUBCKT D_LIM01_1 1 2
D1 1 2  D_Lim01
*.MODEL D_LIM01 D( IS=10F N=0.1 RS=1 XTI=0 AF=0 KF=0 EG=0.111 T_ABS=27)
.MODEL D_LIM01 D( IS=10F N=0.1 RS=0 XTI=0 AF=0 KF=0 T_ABS=27)
.ENDS

*
* CONNECTIONS:   A
*                             |    C
*                             |    |
.SUBCKT D_D_0 1    2
D1 1 2  DD
.MODEL DD D( IS=1p N=0.1 RS=0 XTI=0 AF=0 KF=0 T_ABS=27)
.ENDS D_D_0 

.SUBCKT D_LIM01_2 1 2 Params: RS=100
D1 1 2  D_Lim01
*.MODEL D_LIM01 D( IS=10F N=0.1 RS=1 XTI=0 AF=0 KF=0 EG=0.111 T_ABS=27)
.MODEL D_LIM01 D( IS=10F N=0.1 RS={RS} XTI=0 AF=0 KF=0 T_ABS=27)
.ENDS

.SUBCKT Q_PMOS_OUT_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U CGS=1P CGD=100F CDs=100F LAMBDA=50m RDS = 1000G AF=1.5 KF=1.0e-18
.PARAM VTOHP = -0.7
.PARAM KPP = 388.479u 
M1 D G S B Q_PMOS_OUT_L1 W = {W} L = {L} M = {M} 
Cgd     G    D    {CGD}
Cgs     G    S    {CGS}
Cds     D    S    {CDS}
.MODEL Q_PMOS_OUT_L1 PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={VTOHP} LAMBDA={LAMBDA} T_ABS=27
+ AF={AF} KF={KF/M}
*+ AF=0 KF=0
Rds D S R_ds {RDS}
 .MODEL R_ds RES T_ABS=-273.15
.ENDS

.SUBCKT Q_NMOS_OUT_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U CGS=1P CGD=100F CDs=100F LAMBDA=10m RDS = 1000G AF=1.5 KF=1.0e-18
.PARAM VTOHN = 0.7
.PARAM KPN = 388.479u 
M1 D G S B Q_NMOS_OUT_L1 W = {W} L = {L} M = {M} 
Cgd     G    D    {CGD}
Cgs     G    S    {CGS}
Cds     D    S    {CDS}
.MODEL Q_NMOS_OUT_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA} T_ABS=27
+ AF={AF} KF={KF/M}
*+ AF=0 KF=0
Rds D S R_ds {RDS}
 .MODEL R_ds RES T_ABS=-273.15
.ENDS

.SUBCKT Q_NMOS_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U LAMBDA=50m
.PARAM VTOHN = 0.7
.PARAM KPN = 388.479u 
M1 D G S B Q_NMOS_OUT_L1  W = {W} L = {L} M = {M} 
.MODEL Q_NMOS_OUT_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA} T_ABS=27
+ AF=0 KF=0.0
.ENDS

.SUBCKT Q_PMOS_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U LAMBDA=50m
.PARAM VTOHP = -0.7
.PARAM KPP = 388.479u 
M1 D G S B Q_PMOS_OUT_L1 W = {W} L = {L} M = {M} 
.MODEL Q_PMOS_OUT_L1 PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={VTOHP} LAMBDA={LAMBDA} T_ABS=27
+ AF=0 KF=0.0
.ENDS

.SUBCKT D_D_0_0 1    2
D1 1 2  DD
.MODEL DD D( IS=1.0p N=3.0 AF=0 KF=0 T_ABS=27)
.ENDS D_D_0_0 

.SUBCKT D_D_1_0 1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 T_ABS=27)
.ENDS D_D_1_0 

.SUBCKT Q_NMOS_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U LAMBDA=50m
.PARAM VTOHN = 0.7
.PARAM KPN = 388.479u 
M1 D G S B Q_NMOS_OUT_L1  W = {W} L = {L} M = {M} 
.MODEL Q_NMOS_OUT_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA} T_ABS=27
+ AF=0 KF=0.0
.ENDS

.SUBCKT D_LIM1_0 1 2
D1 1 2  D_Lim1
.MODEL D_LIM1 D( IS=10F N=1.0 RS=100 XTI=0 AF=0 KF=0 T_ABS=27)
.ENDS

.SUBCKT D_DIN_2 1    2 Params: IS=10n
D1 1 2  Dnh
.MODEL Dnh D( IS={IS} N=1.0 XTI=0 RS=10 T_ABS=27 )
.ENDS


*****************************************************************************
* REF35160 SOT-23-6 (DBV) wrapper (added locally, not part of the TI file).
* Nodes follow physical pin numbers so KiCad's REF35160QDBVR symbol maps 1:1.
*   1 GND  2 GND  3 EN  4 VIN  5 NR  6 VREF
* Pins 1 and 2 are both ground on the package; they are shorted here.
*****************************************************************************
.SUBCKT REF35160_DBV GND GND2 EN VIN NR VREF
RGND GND GND2 1m
XREF GND EN VIN NR VREF REF35160
.ENDS REF35160_DBV
